US04276409
A 6.277 g portion of barium 2-cyanoethylphosphate was placed into an Erlenmeyer flask and slurried in deionized water. About 2 ml. of concentrated hydrochloric acid was added to form the compound 2-cyanoethylphosphoric acid. The flask was fitted with a Tuttle cover (Fisher Scientific Company Cat. No. 10-042) and the contents heated to boiling. To this was added 1.100 g of ZrOCl2.8H2O. A white precipitate formed immediately, and the mixture was heated and refluxed for about one day. The solution was inadvertently evaporated to dryness during this time.

reactant | barium 2-cyanoethylphosphate | C(#N)CCOP(=O)([O-])[O-].[Ba+2]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 2-cyanoethylphosphoric acid | C(#N)CCOP(O)(O)=O | C3H6NO4P
